US05728878
Attempted Synthesis of 2-hydroxyethyl 3-(N-vinylformamido)propionate
The apparatus of Example 2 was charged with 17.1 grams (0.1 mol) of ethyl 3-(N-vinylformamido)propionate, 6.2 grams (0.1 mol) of ethylene glycol, and 0.15 gram of 25% sodium methoxide in methanol solution. The mixture was stirred at 90° C. for 2 hours. No evolution of ethanol was observed during the reaction period. Heating for an additional hour at 135° C. also failed to generate a volatile coproduct which indicated no conversion to the desired product.

reactant | ethyl 3-(N-vinylformamido)propionate | 0.1 mol, 17.1 grams | C(=C)N(C=O)CCC(=O)OCC | C8H13NO3
reactant | ethylene glycol | 0.1 mol, 6.2 grams | C(CO)O | C2H6O2
reactant | sodium methoxide | 0.15 gram | C[O-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | methanol | CO | CH4O
product | 2-hydroxyethyl 3-(N-vinylformamido)propionate | C(=C)N(C=O)CCC(=O)OCCO | C8H13NO4
